US05451700
A stirred solution of 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide (3.0 g, 7.06 mmol) in 15 mL of dichloromethane is treated with 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride (1.67 g, 8.47 mmol), hydroxybenztriazole (1.14 g, 8.47 mmol), and 2-(benzoyloxymethyl)benzoic acid (1.81 g, 7.06 mmol) and stirred at room temperature over 2 hours. The reaction is concentrated in vacuo and purified by chromatography on silica gel (50 g) with 60% ethyl acetate/hexane as the eluent to afford 4-[5-[4-amino[2-(benzoyloxymethyl)benzoyl]iminomethyl]phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide as a colorless foam; CHN calculated for C42H47N3O7 :

reactant | 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | 7.06 mmol, 3.0 g | NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C26H37N3O4
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]-carbodiimide hydrochloride | 8.47 mmol, 1.67 g | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenztriazole | 8.47 mmol, 1.14 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2-(benzoyloxymethyl)benzoic acid | 7.06 mmol, 1.81 g | C(C1=CC=CC=C1)(=O)OCC1=C(C(=O)O)C=CC=C1 | C15H12O4
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-methoxy-N,N-bis(1-methylethyl)benzamide | COC=1C=C(C(=O)N(C(C)C)C(C)C)C=CC1 | C14H21NO2
